US05445762
1-(2,2-Dimethylbutyroyl)-1-aza-4,7,10,13-tetraoxacyclopentadecane
Analogously to Example 14 from 1-aza-4,7,10,13-tetraoxacyclopentadecane and 2,2-dimethylbutyryl chloride.

reactant | 1-aza-4,7,10,13-tetraoxacyclopentadecane | N1CCOCCOCCOCCOCC1 | C10H21NO4
reactant | 2,2-dimethylbutyryl chloride | CC(C(=O)Cl)(CC)C | C6H11ClO
product | 1-(2,2-Dimethylbutyroyl)-1-aza-4,7,10,13-tetraoxacyclopentadecane | CC(C(=O)N1CCOCCOCCOCCOCC1)(CC)C | C16H31NO5
